US07579451B2
Step D: N-Benzoyl-5-methylcytidine
To a solution of 5-methylcytidine (257 mg, 1 mmol) in dry DMF (1-2 mL) was added benzoic anhydride (226 mg, 1 mmol) and the reaction mixture was stirred at room temperature for 12-16 h. The reaction mixture was quenched with water and concentrated to a crude residue which was co-evaporated with water (3×10 mL). Crystallized with toluene to a pure title compound (308 mg, 86%) as a white solid. 1H-NMR (DMSO-d6, 400 MHz): δ 12.98 (s, 1H, NH), 8.19-8.14 (m, 3H, H-6, ArH), 7.60-7.47 (m, 3H, ArH), 5.79 (d, 1H, J=4.4 Hz, H-1′), 5.48 (d, 1H, J=4.8 Hz), 5.24 (t, 1H, J=5.2, J=4.8 Hz), 5.10 (d, 1H, J=5.2 Hz), 4.09-3.99 (m, 2H), 3.89 (s, 1H), 3.78-3.68 (m, 1H, H-5a′), 3.64-3.56 (m, 1H, H-5b), 2.00 (s, 3H, 5-CH3).

reactant | 5-methylcytidine | 1 mmol, 257 mg | CC=1C(=NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C1)=O)N | C10H15N3O5
reactant | benzoic anhydride | 1 mmol, 226 mg | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | DMF | 1-2 mL | CN(C)C=O | C3H7NO
product | N-Benzoyl-5-methylcytidine | C(C1=CC=CC=C1)(=O)NC1=NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C=C1C)=O | C17H19N3O6
